US09212305B2
C. Synthesis of 4-(3-(dodecylamino)-3-oxopropyl)-1-hexyl-1-methylpiperazin-1-ium bromide
N-dodecyl-3-(4-methylpiperazin-1-yl)propanamide 30.0 g (0.088 moles), 1-bromohexane 14.6 g (0.088 moles), and 11.2 g of isopropyl alcohol are charged into a 3-neck 250-mL round bottom flask equipped with a thermocouple, and reflux condenser. The mixture is agitated using a magnetic stirring bar and heated to reflux overnight. Then, the reaction mass is cooled down to about 40° C. and diluted to 40% active solids with 56 g of methanol. Evidence of the chemical transformation is observed by TLC analysis using a 4:1 CHCl3/MeOH as mobile phase. The final product is a light brown solution at ambient temperature. 1H-NMR (300 MHz, CDCl3): δ 3.10 (m, 5H), 2.90 (m, 10H), 2.36 (in, 4H), 1.34 (bs, 2H), 0.80 (in, 26H), 0.44 (m, 6H). 13C-NMR (75 MHz, CDCl3): δ 170.94, 62.39, 59.24, 52.17, 48.35, 45.12, 38.39, 32.50, 30.75, 30.12, 28.52, 28.49, 28.38, 28.18, 28.18, 25.98, 24.85, 24.11, 21.50, 21.28, 20.74, 12.92, 12.74.

reactant | N-dodecyl-3-(4-methylpiperazin-1-yl)propanamide | 0.088 moles, 30.0 g | C(CCCCCCCCCCC)NC(CCN1CCN(CC1)C)=O | C20H41N3O
reactant | 1-bromohexane | 0.088 moles, 14.6 g | BrCCCCCC | C6H13Br
reactant | isopropyl alcohol | 11.2 g | C(C)(C)O | C3H8O
reactant | CHCl3 MeOH | C(Cl)(Cl)Cl.CO
solvent | methanol | 56 g | CO | CH4O
product | 4-(3-(dodecylamino)-3-oxopropyl)-1-hexyl-1-methylpiperazin-1-ium bromide | [Br-].C(CCCCCCCCCCC)NC(CCN1CC[N+](CC1)(C)CCCCCC)=O | InChI=1S/C26H53N3O.BrH/c1-4-6-8-10-11-12-13-14-15-16-19-27-26(30)18-20-28-21-24-29(3,25-22-28)23-17-9-7-5-2;/h4-25H2,1-3H3;1H
